US07582633B2
Step 4: 5-[3-(2-Bromo-5-fluorophenoxy)azetidin-1-yl]pyrazine-2-carboxamide
To methyl 5-[3-(2-bromo-5-fluorophenoxy)azetidin-1-yl]pyrazine-2-carboxylate (0.080 g, 2.1 mmol) in MeOH was bubbled ammonia and the mixture was heated at 50° C. After 2 d, the methanol was evaporated followed by the addition of ether. The solid was filtered to provide the title compound as a white solid.

reactant | methyl 5-[3-(2-bromo-5-fluorophenoxy)azetidin-1-yl]pyrazine-2-carboxylate | 2.1 mmol, 0.080 g | BrC1=C(OC2CN(C2)C=2N=CC(=NC2)C(=O)OC)C=C(C=C1)F | C15H13BrFN3O3
reactant | ammonia | N | H3N
solvent | MeOH | CO | CH4O
product | 5-[3-(2-Bromo-5-fluorophenoxy)azetidin-1-yl]pyrazine-2-carboxamide | BrC1=C(OC2CN(C2)C=2N=CC(=NC2)C(=O)N)C=C(C=C1)F | C14H12BrFN4O2
